US06740670B2
3-Benzyloxy-4-trifluoromethanesulfonylbenzaldehyde
Trifluoromethanesulfonic anhydride (4.4 mL, 26.3 mmol, 1.2 eq) was added dropwise to an ice-cold solution of 3-benzyloxy-4-hydroxybenzaldehyde (5 g, 21.9 mmol, 1 eq) in anhydrous pyridine (100 mL). The solution was stirred for 4 h and then concentrated in vacuo. The residue was dissolved in ethyl acetate (100 mL) and washed with 10% HCl (2×100 mL), saturated aqueous sodium bicarbonate (200 mL) and brine (200 mL). The organic solution was dried over sodium sulfate and evaporated in vacuo to give the product as a dark brown oil (7.37 g, 91%). 1H NMR (CDCl3) δ9.97 (s, 1H, O═C—H), 5.27 (s, 2H, OCH2Ph).

reactant | Trifluoromethanesulfonic anhydride | 26.3 mmol, 4.4 mL, 1.2 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-benzyloxy-4-hydroxybenzaldehyde | 21.9 mmol, 5 g, 1 eq | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1O | C14H12O3
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 3-Benzyloxy-4-trifluoromethanesulfonylbenzaldehyde | 7.37 g, 91% | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1S(=O)(=O)C(F)(F)F | C15H11F3O4S
